* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : NOR3_3                                       *
* Netlisted  : Fri Apr 10 22:06:13 2026                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(N) ngate tndiff(D) poly(G) tndiff(S) psub(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NOR3_3                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NOR3_3 Q gnd! vdd!
** N=11 EP=3 FDC=6
M0 Q 11 gnd! 7 N L=2.7e-07 W=7.5e-07 $X=940 $Y=1640 $dt=0
M1 gnd! 11 Q 7 N L=2.7e-07 W=7.5e-07 $X=1820 $Y=1640 $dt=0
M2 Q 10 gnd! 7 N L=2.7e-07 W=7.5e-07 $X=9270 $Y=1640 $dt=0
M3 gnd! 10 Q 7 N L=2.7e-07 W=7.5e-07 $X=10150 $Y=1640 $dt=0
M4 Q 9 gnd! 7 N L=2.7e-07 W=7.5e-07 $X=17530 $Y=1640 $dt=0
M5 gnd! 9 Q 7 N L=2.7e-07 W=7.5e-07 $X=18410 $Y=1640 $dt=0
.ends NOR3_3
