* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : OR_2_6                                       *
* Netlisted  : Fri Apr  3 14:41:06 2026                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(N) ngate tndiff(D) poly(G) tndiff(S) psub(B)
*.DEVTMPLT 1 MP(P) pgate tpdiff(D) poly(G) tpdiff(S) nxwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: OR_2_6                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt OR_2_6 A B Out gnd! vdd!
** N=6 EP=5 FDC=26
M0 Out A gnd! gnd! N L=1.8e-07 W=1.33e-06 $X=1250 $Y=880 $dt=0
M1 gnd! A Out gnd! N L=1.8e-07 W=1.33e-06 $X=1970 $Y=880 $dt=0
M2 Out A gnd! gnd! N L=1.8e-07 W=1.33e-06 $X=2700 $Y=880 $dt=0
M3 gnd! A Out gnd! N L=1.8e-07 W=1.33e-06 $X=3420 $Y=880 $dt=0
M4 Out A gnd! gnd! N L=1.8e-07 W=1.33e-06 $X=4150 $Y=880 $dt=0
M5 gnd! A Out gnd! N L=1.8e-07 W=1.33e-06 $X=4890 $Y=880 $dt=0
M6 Out B gnd! gnd! N L=1.8e-07 W=1.33e-06 $X=7000 $Y=880 $dt=0
M7 gnd! B Out gnd! N L=1.8e-07 W=1.33e-06 $X=7720 $Y=880 $dt=0
M8 Out B gnd! gnd! N L=1.8e-07 W=1.33e-06 $X=8450 $Y=880 $dt=0
M9 gnd! B Out gnd! N L=1.8e-07 W=1.33e-06 $X=9170 $Y=880 $dt=0
M10 Out B gnd! gnd! N L=1.8e-07 W=1.33e-06 $X=9900 $Y=880 $dt=0
M11 gnd! B Out gnd! N L=1.8e-07 W=1.33e-06 $X=10620 $Y=880 $dt=0
M12 6 A vdd! vdd! P L=1.8e-07 W=8.28e-06 $X=1240 $Y=4460 $dt=1
M13 vdd! A 6 vdd! P L=1.8e-07 W=8.28e-06 $X=1980 $Y=4460 $dt=1
M14 6 A vdd! vdd! P L=1.8e-07 W=8.28e-06 $X=2730 $Y=4460 $dt=1
M15 vdd! A 6 vdd! P L=1.8e-07 W=8.28e-06 $X=3470 $Y=4460 $dt=1
M16 6 A vdd! vdd! P L=1.8e-07 W=8.28e-06 $X=4210 $Y=4460 $dt=1
M17 vdd! A 6 vdd! P L=1.8e-07 W=8.28e-06 $X=4950 $Y=4460 $dt=1
M18 6 A vdd! vdd! P L=1.8e-07 W=8.28e-06 $X=5700 $Y=4460 $dt=1
M19 Out B 6 vdd! P L=1.8e-07 W=8.28e-06 $X=7770 $Y=4060 $dt=1
M20 6 B Out vdd! P L=1.8e-07 W=8.28e-06 $X=8510 $Y=4060 $dt=1
M21 Out B 6 vdd! P L=1.8e-07 W=8.28e-06 $X=9260 $Y=4060 $dt=1
M22 6 B Out vdd! P L=1.8e-07 W=8.28e-06 $X=10000 $Y=4060 $dt=1
M23 Out B 6 vdd! P L=1.8e-07 W=8.28e-06 $X=10740 $Y=4060 $dt=1
M24 6 B Out vdd! P L=1.8e-07 W=8.28e-06 $X=11480 $Y=4060 $dt=1
M25 Out B 6 vdd! P L=1.8e-07 W=8.28e-06 $X=12240 $Y=4060 $dt=1
.ends OR_2_6
